US05302720
A mixture of 2-amino-5-fluorobiphenyl hydrochloride (3.6 g), N,N-dimethylcyanamide (1.68 g) and m-cresol (25 ml) was heated at 90°-95° C. for 8 hours to give N-(5-fluoro-2-biphenylyl)-N',N'-dimethylguanidine (m.p. 160°-161° C.) which was recrystallised from hexane.

reactant | 2-amino-5-fluorobiphenyl hydrochloride | 3.6 g | Cl.NC1=C(C=C(C=C1)F)C1=CC=CC=C1
reactant | N,N-dimethylcyanamide | 1.68 g | CN(C#N)C | C3H6N2
reactant | m-cresol | 25 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(5-fluoro-2-biphenylyl)-N',N'-dimethylguanidine | FC=1C=CC(=C(C1)C1=CC=CC=C1)NC(=N)N(C)C | C15H16FN3
